US05196551
The overhead vapor fraction passes from the seive plate reactor through line 14 to condenser 15 which is maintained at a temperature in the range of from about 40° to about 60° C. where the vapor fraction is condensed, and the condensate comprises a solvent layer consisting essentially of a solution of L-lactide in ODCB and an aqueous layer consisting essentially of water and lactic acid. The lactide/solvent solution passes via line 16 to crystallizer 17 where it is cooled to 40° C. or below to crystallize L-lactide. The L-lactide/ODCB slurry which results is filtered in a filter 19, in which the crystals are washed with ODCB. The lactide crystals are then removed through line 20, and the mother liquor, i.e., filter wash liquor, is returned to the reboiler through line 21. The lactide product, which is substantially L-lactide, can be further purified, if desired and depending on its intended use, by recrystallization from a suitable solvent or by other means known in the art.

reactant | L-lactide | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | water | O | H2O
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | ODCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
product | L-lactide ODCB | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C6H4Cl2.C6H8O4/c7-5-3-1-2-4-6(5)8;1-3-5(7)10-4(2)6(8)9-3/h1-4H;3-4H,1-2H3/t;3-,4-/m.0/s1
